US05045228
Synthesis of 4-hydroxy-4'-decyloxybiphenyl
In 25 ml of methanol was dissolved 5.0 g of biphenyl, and a solution comprising 1.3 g of sodium hydroxide, 1 ml of water and 5 ml of methanol was added to the above solution. The mixture was refluxed under heating, a solution of 5.4 g of n-bromodecane in 5 ml of methanol was dropped into the formed solution, and the mixture was refluxed overnight. The reaction liquid was concentrated under a reduced pressure and the pH value was adjusted to 2 to 3 by water and hydrochloric acid. The mixture was extracted three times with chloroform, and the extract layer was washed with a saturated aqueous sodium chloride solution dried on magnesium sulfate, concentrated under a reduced pressure and purified by 4-hydroxy-4'-decyloxybiphenyl.

reactant | biphenyl | 5.0 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-hydroxy-4'-decyloxybiphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCCC | C22H30O2
